Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
"The people at labor and delivery were concerned" 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of chronic SI,
depression, childhood trauma, and anxiety who was sent to the ED
by her Ob-Gyn from clinic after refusing a second treatment with
methotrexate for possible ectopic pregnancy and then making
passively suicidal statements, i.e. "I don't care what happens 
to
me" "I'm not afraid to die" "It doesn't matter [if I die]."  She
was also asking her ob-gyn what it would be like to die from
hemorrhage from ectopic pregnancy.  

The patient became pregnant by her married boyfriend (who is 
also
her PCP).  She was initially happy about the pregnancy, but then
reports that her boyfriend "tried to trick me into an abortion." 

She has had two prior elective abortions and describes "making a
promise to God" that she would not have a third.  Subsequently,
she found out that she likely had an ectopic pregnancy and would
need treatment with methotrexate.  She says she knows that the
methotrexate is "not an abortion" but seems unsure about this,
later saying that she only took the first dose of methotrexate
because the baby's father was in the office with her.  Since
taking the methotrexate, she has been having "demonic 
nightmares"
about babies, sticking needles into and stabbing babies, and 
sex.
She reports prior nightmares and flashbacks of childhood sexual
abuse, but does not think that these nightmares are similar.  
She
has also been ruminating on the idea that the obstetricians 
could
have been wrong and she could have terminated a viable pregnancy
when she took the first dose of methotrexate, thus breaking her
promise to God.  Today, she was called by her pastor to come to
the church for a meeting, where ___, the father of the baby,
told her that "it was over" and that "I was on my own."  Still,
she thought that he would attend today's appointment with her,
and now reports feeling abandoned by him.  Apparently ___'s 
wife
found out about the patient yesterday, and he has now changed 
his
cell phone number and had the pastor return the phone call when
the patient tried to contact him.  The patient and ___ had been
in a sexual relationship for the past year and an "emotional
relationship" for about the past ___ years.  She describes him
as her only social support and denies having any other supports
now that he is not a part of her life.  She would like to be 
able
to talk to her pastor, but does not feel comfortable doing so
because the pastor is ___'s best friend.  

She refused today's dose of methotrexate for a number of 
reasons.
Primarily, the issue seems to be concern that there is some
chance that there could be a viable pregnancy that would be
negatively affected by a second dose.  She describes feeling 
that
this possibility far outweighs any potential risk of death in 
her
mind.  Secondarily, she does not think that she is really at 
risk
of death for a number of reasons: (1) a pregnancy was not seen 
on
her most recent ultrasound; (2) she believes that she passed a
clot containing the fetus a few weeks ago and reports being told
at ___ that she had a miscarriage; (3) she believes
at a basic level that what is happening in her body will run its
course and she will be fine.  She said repeatedly "nothing's
gonna happen" "nothing's gonna rupture."  She is aware that
ectopic pregnancy, if untreated, can lead to death, and says,
"I'm not scared of death, but I don't believe it will happen." 
Later, she admits that she is accepting of the fact that she
could die as a result of refusing adequate treatment for the
possible ectopic, and that her acceptance of this represents
suicidal thinking.  

She reports last being suicidal in ___, at which point she
was making plans.  She told her PCP in ___ that she was
improving.  
 
Past Medical History:
PAST MEDICAL HISTORY:
Hypothyroidism
Interstitial cystitis 
 
PAST PSYCHIATRIC HISTORY:
-Diagnoses: Depression, anxiety. Denies formal dx of PTSD, but
thinks she has it based on reading she has done.  Also has prior
diagnosis of bipolar disorder, but denies periods of sustained
increase in energy, sustained decreased need for sleep, or
impulsivity, and generally does not think that the diagnosis
makes sense to her.
-Prior Hospitalizations:  Multiple in ___ through
___, when she was working with a client who reminded 
of
past traumas (leading to worsened flashbacks) and when she had a
number of deaths in her family.  
-History of assaultive behaviors: Per OMR has hit son in the 
past
-History of suicide attempts or self-injurious behavior: Yes
Overdose attempt with Abilify in ___, leading to
hospitalization at ___. Reports receiving charcoal.
No ICU admission.  Used to cut her wrists superfically during
adolescence (stopped when became pregnant w/first child), denies
that these were SAs.  Also tried to jump out of a window when in
___ grade and sustained no injuries.
-Prior med trials: Reports having been on "everything" and not
being helped by medications.  She has been off medications for
some time, but was most recently on Abilify, Ativan, and
Wellbutrin.  She has also been on Geodon in the past.
-Therapist: None currently.  Saw a social worker twice in the
past at ___. 
-Psychiatrist: None currently.  Previously seen at ___ by a Dr. ___. 
-Medical records from ___ reviewed - history of
depression with ?psychotic features (due to concern for auditory
hallucinations at that time, or visual illusions). Patient
appeared to acurately report her history of suicidality and
suicide attempt in the past and her trials of different
antidepressants and antipsychotics
 
Social History:
SUBSTANCE ABUSE HISTORY:
-ETOH: rare social
-Tobacco: Non-smoker
-Previously smoked marijuana up to daily, stopped smoking
marijuana ___ year ago

SOCIAL HISTORY: 
Endorses history of childhood sexual abuse while living in 
___.
Put into the foster care system at ___.  Previously worked in
social services, now on ___ for psych issues.  Also gets child
support payments.  Has three children, ages ___, ___, and ___.  The 
___
and ___ year old have the same father and the patient is not in
contact with him; he was physically abusive at the end of their
relationship.

Per ___ note from ___: "Her social situation is somewhat
troubling currently.  She actually kicked her daughter out of 
her
house because she 'could not handle her.'  She has two teenaged
children who she describes as defiant.  They ran away recently
and DSS has been involved with the family on several occasions. 
This is particularly troubling to Ms. ___ because she had in
the past worked for the ___ for ___ and feels that
she can no longer regain employment in that field because of the
DSS files she has open.  She did say that she hit her son in
___, which was the prompt for one of these involvements."
 
Family History:
FAMILY HISTORY: 
+Depression
No known suicide attempts / psychosis
Other relatives who smoke marijuana
 
Physical Exam:
PHYSICAL EXAMINATION:
VS:  BP: 103/63 HR: 80  Temp: 98  Resp: 16 O2sat: 100% 
height: 62"  weight: 125 lbs
 
MENTAL STATUS EXAM:
--appearance: ___ woman, wearing ED gown, well-groomed,
appears stated age, good eye contact
--behavior/attitude: provocative at times ("not giving me my 
cell
phone is going to make me want to leave a lot sooner") but
overall cooperative with exam; exhibited no PMR, PMA
--speech: normal rate, decreased volume, mildly decreased
prosody, no dysarthria/aphasia
--mood (in patient's words): "aggravated" 
--affect: congruent to mood, constricted, somewhat flat
--thought content: As per HPI, related to having cell phone and
wanting to shelter children from what is happening. No evidence
of hallucinations/delusions. 
--thought process: linear, logical, goal-directed
--perception: without AH, VH, delusions, paranoia
--SI/HI: passive HI, no HI; verbalized intent to remain safe on
unit
--insight: fair
--judgment: fair
 
COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: able to recite DOWB
--memory: able to recall three items she was asked to remember 
in
ED 6 hours ago
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: able to recall the president on ___ 
--proverbs: provided accurate interpretations of "apple falling
from tree"
--similarities/analogies: did not understand analogy of "apples
to oranges"

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops.
Abdomen: Soft, mildly tender in bilateral lower quadrants
("because I have to go to the bathroom"), nondistended; no 
masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
*Cranial Nerves-
 I: Not tested
 II: Pupils equally round and reactive to light bilaterally. 
 III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to voice.
 IX, X: Palatal elevation symmetrical.
 XI: Sternocleidomastoid and trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
*Motor, Sensory- No gross focal motor or sensory deficits
*Reflexes- 1+ throughout and symmetric
*Coordination- Normal gait.
 
Pertinent Results:
___ 01:55PM   ___
___ 01:55PM   TSH-5.4*
___ 01:55PM   ALT(SGPT)-27 AST(SGOT)-27
___ 01:55PM   UREA N-7 CREAT-0.6
___ 09:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:10PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:10PM URINE  UCG-POSITIVE
___ 09:10PM URINE  HOURS-RANDOM
___ 03:15AM   ___ PTT-25.4 ___
___ 03:15AM   PLT COUNT-238
___ 03:15AM   NEUTS-63.7 ___ MONOS-3.3 EOS-2.9 
BASOS-1.0
___ 03:15AM   WBC-4.9 RBC-3.97* HGB-11.8* HCT-33.3* MCV-84 
MCH-29.8 MCHC-35.5* RDW-13.0
___ 03:15AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:15AM   ___
___ 03:15AM   CALCIUM-9.3 PHOSPHATE-3.6 MAGNESIUM-1.9
___ 03:15AM   GLUCOSE-110* UREA N-9 CREAT-0.6 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-26 ANION GAP-13
___ 07:45AM   ___
___ 07:45AM   T4-6.9
___ 07:45AM   TSH-8.3*
 
Brief Hospital Course:
1. Psychiatric: Ms. ___ is a ___ year old female with a 
history of depression, prior overdoses, cutting in her teens, 
and childhood sexual abuse who was sent to the ED by her 
gynecologist after making passively suicidal statements in the 
context of refusing part of treatment for a possible ectopic 
pregnancy. The nightmares that she has experienced in the 
context of this possible ectopic pregnancy were also thought to 
have triggered PTSD-like symptoms, which were a trigger for her 
past suicide attempt. Following admission, pt. reported that she 
made those statements while angry, and had had an opportunity to 
reflect and calm down while hospitalized. She reported that her 
mood had improved (per pt. report, mood improved over past 
year), and while she acknowledged experiencing some symptoms of 
anxiety and memories of past significant abuse, she denied 
depression symptoms or PTSD symptoms such as hypervigilence, 
nightmares or flashbacks. Pt. expressed that she was initially 
uncertain about how she would cope with the loss of her partner 
and relationship, but over the course of hospitalization, was 
able to appropriate reflect on the loss of a significant 
relationship and her ectopic pregnancy, as well as able to 
process the lack of close supports outside of her church and her 
past trauma history. She appeared open and forthcoming in
discussions with the team without evidence of psychosis or 
severe mood disorder. Pt. also acknowledged that seeking help 
and addressing prior trauma that she felt was still impacting 
her current functioning would be beneficial in the long term. 
She consistently denied suicidal ideation, intent, plan or 
preparation, evidenced future orientation with plans to change 
medical providers, engage in mental health treatment which 
included a partial hospital program and a new therapist. She 
declined initiation of medications while inpatient, stating that 
she had done well without medication for the past ___, and 
stated that if her symptoms worsened or she felt unsafe, she 
would contact her treaters, call ___ or return to the ER.   

2. Medical:
# Hyperthyroidism: Pt. with elevated TSH, stated will followup 
as scheduled
with endocrinologist (who is apparently also aware of previously 
elevated
level)
# Ectopic pregnancy: While inpatient, treatment team in contact 
with outpatient Ob-Gyn Dr. ___. Per Dr. ___ methotrexate 
needed while pt. inpatient. HCG noted to continue trending down, 
and pt. scheduled to followup with Dr. ___ as an outpatient 
following discharge, which pt. was in agreement with. Dr. ___ 
___ advise pt. on restarting outpatient medications at this 
followup.

3. Psychosocial: Communicated with the patient's outpatient 
ob/gyn treaters
regarding her status, treatment plan/progress, and disposition. 
Social worker offered to contact family and friends but pt. 
declined as she felt it would worsen her situation. Pt. engaged 
well with physicians and religious supports. Pt. was in 
agreement with arranged aftercare plans. 

4. Legal: ___
Medications on Admission:
CURRENT MEDICATIONS:
Synthroid ___ mcg
Stopped Topamax and Elmiron when found out she was pregnant 
 
Discharge Medications:
1. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I. Adjustment disorder with depressed mood; r/o PTSD
II. defer
III. ectopic pregnancy; hypothyroidism, hisotry of graves
disease, intersitital cystitis
IV. relationship stress, social isolation, recent loss of
pregnancy 
V.40-50
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

MSE: 
General: well groomed, good eye contact, pleasant and
cooperative, no PMA 
Speech: regular 
Mood/Affect: "I am moving on."; restricted, reactive 
T. Form: linear
T. Content: No suicididal or homicidal ideation, processing
events leading up to her admission appropriately, help seeking,
no AH/VH, No paranoia or delusions
Cognition : a and o x 3, attention and memory intact
J/I: improved  

 
Discharge Instructions:
Ms. ___, you were admitted because you were experiencing a 
number of stressful events and expressed thoughts that were 
concerning for wanting to die. Over your hospitalization, you 
reported that you felt better and did not have any thoughts of 
hurting yourself. You did not want to start any medications 
while in the hospital.

-Please follow up with all outpatient appointments as listed.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___